*ZETEX  BSS123 Spice Model v1.0 Last Revision 27/3/06
    *
    .SUBCKT BSS123 3 4 5
    * NODES: DRAIN GATE SOURCE
    M1 3 2 5 5 MOD1   
    RG 4 2 356
    RL 3 5 1E8
    C1 2 5 21.5P
    C2 3 2 2.5P 
    D1 5 3 DIODE1
    *
    .MODEL MOD1 NMOS VTO=1.736 RS=2.147 RD=1.682 IS=1E-15 KP=0.157
    +CBD=25.5P PB=1
    .MODEL DIODE1 D IS=6.12E-13 RS=.629
    .ENDS BSS123
    *
    *$
    *
