* C:\users\jonas\Meine Dokumente\LTspiceXVII\Hauptlicht_EVAL\Hauptlichtsteuerung_einfach.asc
R2 N009 0 200
C2 N010 PWM-MOSFET 1n
D1 N006 N005 1N5818
R3 N004 N005 2k
R4 N003 N004 5k6
L1 N001 N003 5m6
D2 N004 N001 1N5818
XM3 MOSFET-OUT N006 N001 IRF9530
V1 N001 0 48V
L2 N002 MOSFET-OUT 1m
C1 N002 0 1000µ
D3 0 MOSFET-OUT 1N5818
R_LAST OUT 0 10
R_SENS OUT N002 100m
V§PCA-OUT PWM-MOSFET 0 PULSE(0 5 0 14n 1.5n {d/F} {1/F})
D4 0 N010 1N5818
R1 N010 0 3k9
M4 N005 N007 N008 N008 BSS123
C3 N008 0 100n
V§PCA1 N007 0 PULSE(0 5 0 14n 1.5n {d/F} {1/F})
M2 N001 N004 N006 N006 BSS123
M5 N009 N010 0 0 BSS123
R5 N008 0 200
.model D D
.lib C:\users\jonas\Meine Dokumente\LTspiceXVII\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\users\jonas\Meine Dokumente\LTspiceXVII\lib\cmp\standard.mos
.tran 10m
.inc BUZ.lib
.inc 2n7000.lib
.param F=100k d=0.5
.inc IRF9530.lib
.backanno
.end
